US04423070
A suspension of 2-{N-benzyl-N-[2-(2-phenylacetamido)ethyl]amino}-3',4'-bis(pivaloyloxy)acetophenone (2.0 g.) in 2-propanol (20 ml.) was cooled to -10° C. and sodium borohydride (0.34 g.) added in two portions interspersed by a portion of methanol (4 ml.). After 30 minutes at -10° C. a saturated aqueous solution (150 ml.) of sodium chloride (brine) was added and the mixture was extracted with ether (3×80 ml.). Evaporation of the dried (MgSO4) ethereal extracts gave 1-[3,4-bis(pivaloyloxy)phenyl]-2-[2-(2-phenylacetamido)-N-benzyl-ethylamino]ethanol (1.65 g.) which was dissolved without purification in ethanol (40 ml.). To this solution was added benzyl bromide (0.37 ml., 0.0031 mole) and the mixture was then hydrogenated in the presence of 10% palladium-carbon (0.4 g.) at atmospheric pressure and room temperature during 2 hours. The catalyst was separated, washed with ethanol (10 ml.) and the ethanol washings and reaction solution was evaporated together. The residue was triturated with ether (20 ml.) containing several drops of ethanol to give 1-[3,4-bis(pivaloyloxy)phenyl]-2-[2-(2-phenylacetamido)ethylamino]ethanol hydrobromide, (1.2 g.), m.p. 110°-115° C., identical with that obtained in Example 1.

reactant | 2-{N-benzyl-N-[2-(2-phenylacetamido)ethyl]amino}-3',4'-bis(pivaloyloxy)acetophenone | 2.0 g | C(C1=CC=CC=C1)N(CCNC(CC1=CC=CC=C1)=O)CC(=O)C1=CC(=C(C=C1)OC(C(C)(C)C)=O)OC(C(C)(C)C)=O | C35H42N2O6
reactant | sodium borohydride | 0.34 g | [BH4-].[Na+]
reactant | methanol | 4 ml | CO | CH4O
reactant | sodium chloride | 150 ml | [Cl-].[Na+]
solvent | 2-propanol | 20 ml | CC(C)O | C3H8O
product | 1-[3,4-bis(pivaloyloxy)phenyl]-2-[2-(2-phenylacetamido)-N-benzyl-ethylamino]ethanol | 1.65 g | C(C(C)(C)C)(=O)OC=1C=C(C=CC1OC(C(C)(C)C)=O)C(CN(CC1=CC=CC=C1)CCNC(CC1=CC=CC=C1)=O)O | C35H44N2O6
